US05849732
A mixture of 5 g of 2,2-dimethyllauric acid, 4.72 ml of diphenylphosphorylazide (DPPA), 3.36 ml of triethylamine and 80 ml of benzene was refluxed for one hour. After cooling, a mixed solution of 5.763 g of (2-amino-4-methoxy-6-tert-butylphenoxy)methoxymethane and 20 ml of benzene was added dropwise to the above mixture. The resulting mixture was stirred at room temperature for one hour and then under reflux for 10 hours. Water was added to the reaction mixture, and the reaction mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=4:1) and the product was recrystallized from hexane to give 2.89 g of {2-[3-(1,1-dimethylundecyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane (melting point: 83°-85° C.).

reactant | 2,2-dimethyllauric acid | 5 g | CC(C(=O)O)(CCCCCCCCCC)C | C14H28O2
reactant | diphenylphosphorylazide | 4.72 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.36 ml | C(C)N(CC)CC | C6H15N
reactant | (2-amino-4-methoxy-6-tert-butylphenoxy)methoxymethane | 5.763 g | NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C | C13H21NO3
solvent | Water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | {2-[3-(1,1-dimethylundecyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane | 2.89 g | CC(CCCCCCCCCC)(C)NC(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O | C27H48N2O4
